US06664271B1
The reaction was run in the same manner as ethyl 1-benzoyl-3-piperidinecarboxylate, starting with commercially available S-ethyl nipecotate (1.0 g; 6.37 mmol; Chemi SpA; Italy) and 2-thiopheneacetyl chloride (785 μl; 6.37 mmol). The crude product was distilled as 225° C./0.1 torr, giving (S)-ethyl 1-(2-thiopheneacetyl)-3-piperidinecarboxylate (1.23 g) as a light yellow oil. MS m/z (positive ion), 585 (dimer+Na+; 10), 304 (M+Na+; 50), 282 (MH+; 100), 158 (50). OR (MeOH; 589) +62.96°. Product was shown to be >98% ee by chiral capillary electrophoresis using a 20% solution of ·-HSCD (highly sulfated cyclodextrin) at a voltage of 20 kV.

reactant | ethyl 1-benzoyl-3-piperidinecarboxylate | C(C1=CC=CC=C1)(=O)N1CC(CCC1)C(=O)OCC | C15H19NO3
reactant | 2-thiopheneacetyl chloride | 6.37 mmol, 785 μl | S1C(=CC=C1)CC(=O)Cl | C6H5ClOS
product | (S)-ethyl 1-(2-thiopheneacetyl)-3-piperidinecarboxylate | 1.23 g | S1C(=CC=C1)CC(=O)N1C[C@H](CCC1)C(=O)OCC | C14H19NO3S
